US07723336B2
N8-[4-(ethyloxy)phenyl]-N6-piperidin-3-ylimidazo[1,2-b]pyridazine-6,8-diamine
To a mixture of a N-(1-benzylpiperidin-3-yl)-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine TFA salt (14 mg, 0.021 mmol), prepared by the method of example I(1) using 1-benzylpiperidin-3-amine in place of trans-1,4-diaminocyclohexane in step (1d), and MeOH (5 mL) in a 500 ml PARR bottle was added 10% Pd/C (20 mg) and 3 drops of glacial acetic acid. The PARR bottle was then charged with H2 at 55 psi and allow to shake at room temperature for hours. The reaction mixture was then filtered and the filtrate concentrated in vacuo. The residue was purified by preparative HPLC followed by neutralization with ion exchange resin to furnish 0.5 mg (7%) of the title compound 1H NMR (500 MHz, MeOH) δ ppm 7.57 (1H, s), 7.31 (1H, s), 7.24 (2H, d, J=8.7 Hz), 6.97 (2H, d, J=8.7 Hz), 5.89 (1H, s), 4.05 (2H, q, J=6.9 Hz), 3.85 (1H, m), 3.45 (1H, m), 3.10 (1H, m), 2.85 (1H, m), 2.75 (1H, m), 2.05 (1H, m), 1.90 (1H, m), 1.70 (1H, m), 1.55 (1H, m), 1.39 (3H, t, J=6.9 Hz), LC/MS, m/e 353 (M+1). HPLC Rt, 2.04 min. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | N-(1-benzylpiperidin-3-yl)-N8-(4-ethoxyphenyl)imidazo[1,2-b]pyridazine-6,8-diamine TFA salt | 0.021 mmol, 14 mg | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)N1CC(CCC1)NC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC
reactant | 1-benzylpiperidin-3-amine | C(C1=CC=CC=C1)N1CC(CCC1)N | C12H18N2
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | N8-[4-(ethyloxy)phenyl]-N6-piperidin-3-ylimidazo[1,2-b]pyridazine-6,8-diamine | 0.5 mg, 7% | C(C)OC1=CC=C(C=C1)NC=1C=2N(N=C(C1)NC1CNCCC1)C=CN2 | C19H24N6O
